US05556864
6(a) 4-{2-[2-(4-Phenylbutyl)phenoxy]ethyl}morpholine
Following a procedure similar to that described in Example 2, 340 mg of 2-(4-phenylbutyl)phenol (prepared as described in Preparation 3), 330 mg of 4-(2-chloroethyl)morpholine hydrochloride and 140 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) were reacted in 20 ml of dimethylacetamide. The crude product, extracted as described in Example 2, was purified by column chromatography through silica gel, using a 3:2 by volume mixture of ethyl acetate and hexane as the eluent, to give 390 mg (yield 76%) of the title compound as a colorless oil.

reactant | 2-(4-phenylbutyl)phenol | 340 mg | C1(=CC=CC=C1)CCCCC1=C(C=CC=C1)O | C16H18O
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 330 mg | Cl.ClCCN1CCOCC1
reactant | sodium hydride | 140 mg | [H-].[Na+]
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 4-{2-[2-(4-Phenylbutyl)phenoxy]ethyl}morpholine | 390 mg, yield 76% | C1(=CC=CC=C1)CCCCC1=C(OCCN2CCOCC2)C=CC=C1 | C22H29NO2
